US03951976
Preparation of Tetrahydro-1-(5-methyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-(N-methylcarbamoyloxy)-2(1H)-pyrimidinone
Tetrahydro-1-(5-methyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-hydroxy-2(1H)-pyrimidinone (0.05 mole) and methyl isocyanate (3.5 ml; 0.06 mole) are charged into a glass reaction vessel equipped with a mechanical stirrer. The mixture is stirred and triethylamine (1 drop) is added thereto. After the addition is completed the reaction mixture is allowed to stand for a period of about 1 hour. The mixture is then washed with hexane and is dried to yield the desired product tetrahydro-1-(5-methyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-(N-methylcarbamoyloxy)-2(1H)-pyrimidinone.

reactant | Tetrahydro-1-(5-methyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-hydroxy-2(1H)-pyrimidinone | 0.05 mole | CC1=NN=C(S1)N1C(N(CCC1O)C)=O | C8H12N4O2S
reactant | methyl isocyanate | 0.06 mole, 3.5 ml | CN=C=O | C2H3NO
catalyst | triethylamine | 1 drop | C(C)N(CC)CC | C6H15N
product | tetrahydro-1-(5-methyl-1,3,4-thiadiazol-2-yl)-3-methyl-6-(N-methylcarbamoyloxy)-2(1H)-pyrimidinone | CC1=NN=C(S1)N1C(N(CCC1OC(NC)=O)C)=O | C10H15N5O3S
